US06743794B2
N-((1S,3R)-3-Cyanomethylcyclopentyl)(t-butoxy)carboxamide
To a solution of 8.2 g (0.0222 mol) of N-[t-butoxycarbonyl]-2-(p-toluenesulfonyloxymethyl)cyclopentylamine in DMF (250 mL) was added 3.3 g (0.067 mmol) of NaCN and the suspension was heated at 80° C. for 4 h. The solvent was removed in vacuo at 40° C. and the residue was slurried in brine. The aqueous layer was extracted with ethyl acetate, dried and the solvent was removed in vacuo to yield 5.7 g of the title compound. MS(ES+)m/z=225. (one enantiomer)

reactant | N-[t-butoxycarbonyl]-2-(p-toluenesulfonyloxymethyl)cyclopentylamine | 0.0222 mol, 8.2 g | C(C)(C)(C)OC(=O)NC1C(CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C18H27NO5S
reactant | NaCN | 0.067 mmol, 3.3 g | [C-]#N.[Na+]
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
product | N-((1S,3R)-3-Cyanomethylcyclopentyl)(t-butoxy)carboxamide | 5.7 g | C(#N)C[C@H]1C[C@H](CC1)NC(=O)OC(C)(C)C | C12H20N2O2
